US09255110B2
To solution of oxalyl chloride (0.6 mL, 6.87 mmol) in anhydrous dichloromethane (15 mL), cooled at −78° C., was added, dropwise, a solution of anhydrous dimethyl sulfoxide (1.2 mL, 16.5 mmol) in dichloromethane (2 mL) and the resulting mixture was stirred for 10 minutes at −78° C. A solution of 2-benzyloxy-1,3-propanediol (0.5 g, 2.75 mmol) in dichloromethane (2 mL) was then added dropwise at −78° C. and the reaction mixture was stirred for 15 minutes. Triethylamine (4.6 mL, 33 mmol) was then added dropwise at −78° C. and the resulting mixture was stirred for 1 hour. The cold bath was removed and an aqueous solution of hydrochloric acid (6 M, 6 mL, 36 mmol) was added, followed by 5-amino-1H-pyrazole-4-carboxylic acid (0.35 g, 2.75 mmol) and the reaction mixture was heated at 70° C. for 1 hour. The solid formed was collected by filtration, washed with water and dried under vacuum. The solid residue (0.53 g) was then washed with dichloromethane to give 65 mg (9% yield) of 6-benzyloxy-pyrazolo[1,5-a]pyrimidine-3-carboxylic acid. MS=270 [M+H]+.

reactant | oxalyl chloride | 6.87 mmol, 0.6 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | dimethyl sulfoxide | 16.5 mmol, 1.2 mL | CS(=O)C | C2H6OS
reactant | 2-benzyloxy-1,3-propanediol | 2.75 mmol, 0.5 g | C(C1=CC=CC=C1)OC(CO)CO | C10H14O3
reactant | Triethylamine | 33 mmol, 4.6 mL | C(C)N(CC)CC | C6H15N
reactant | hydrochloric acid | 36 mmol, 6 M, 6 mL | Cl | ClH
reactant | 5-amino-1H-pyrazole-4-carboxylic acid | 2.75 mmol, 0.35 g | NC1=C(C=NN1)C(=O)O | C4H5N3O2
solvent | dichloromethane | 15 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 2 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 2 mL | ClCCl | CH2Cl2
product | 6-benzyloxy-pyrazolo[1,5-a]pyrimidine-3-carboxylic acid | 65 mg, 9% yield | C(C1=CC=CC=C1)OC=1C=NC=2N(C1)N=CC2C(=O)O | C14H11N3O3
